US05763577
Step 1: Boc-Ser(OBn)-D-Ala-OMe
To a solution of Boc-Ser(OBn) (4.12 g, 13.95 mmol) in EtOAc (100 mL) at 0° C. was added HOBT (2.35 g, 15.35 mmol) and DCC (3.17 g, 15.35 mmol). D-Alanine methyl ester hydrochloride (1.95 g, 13.95 mmol) was added followed by Et3N (2.14 mL, 15.35 mmol). The mixture was allowed to warm to room temperature and stirred overnight. The mixture was filtered, and the filtrate was washed with saturated aqueous NaHCO3, brine, dried (MgSO4), and concentrated. Flash chromatography (40% EtOAc/hexane) gave 2.60 g of the title compound as a colorless oil; CI-MS 381 (m+1).

reactant | Boc-Ser(OBn) | 13.95 mmol, 4.12 g | N([C@@H](COCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C15H21NO5
reactant | HOBT | 15.35 mmol, 2.35 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 15.35 mmol, 3.17 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | D-Alanine methyl ester hydrochloride | 13.95 mmol, 1.95 g | Cl.COC([C@H](N)C)=O
reactant | Et3N | 15.35 mmol, 2.14 mL | CCN(CC)CC | C6H15N
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | Boc-Ser(OBn)-D-Ala-OMe | 2.60 g | N([C@@H](COCC1=CC=CC=C1)C(=O)N[C@H](C)C(=O)OC)C(=O)OC(C)(C)C | C19H28N2O6
